US07598286B2
(1H-Indazole-3-yl)-(3-methoxyphenyl) methanone (0.406 g, 1.6 mmol) was dissolved in DMF (5 mL) at room temperature. Sodium hydride 95% (0.045 g, 1.9 mmol) was added. When the evolution of hydrogen had stopped, bromo-2-methylpropene (0.324 mL, 3.2 mmol) was added. After the reaction stirred for several minutes, lithium chloride (3.41 g, 80.4 mmol) was added directly to the reaction mixture. The temperature was elevated to 160° C., and stirred for several days. The reaction was monitored my thin layer chromatography. When most of the starting material was gone, the reaction was diluted with water and ethyl acetate. The organic layer was repeatedly extracted with brine to remove DMF. The organic layer was passed through a pad of silica gel, then purified by flash chromatography (silica gel, hexane-EtOAc, 10:1 then 5:1), and crystallized with hexane to yield (3-hydroxyphenyl)[1-(2-methylprop-2-enyl)-1H-indazol-3-yl]methanone (0.160 g) as an off-white solid.

reactant | (1H-Indazole-3-yl)-(3-methoxyphenyl) methanone | 1.6 mmol, 0.406 g | N1N=C(C2=CC=CC=C12)C(=O)C1=CC(=CC=C1)OC | C15H12N2O2
reactant | Sodium hydride | 1.9 mmol, 0.045 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | bromo-2-methylpropene | 3.2 mmol, 0.324 mL | BrC=C(C)C | C4H7Br
reactant | lithium chloride | 80.4 mmol, 3.41 g | [Cl-].[Li+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3-hydroxyphenyl)[1-(2-methylprop-2-enyl)-1H-indazol-3-yl]methanone | 0.160 g | OC=1C=C(C=CC1)C(=O)C1=NN(C2=CC=CC=C12)CC(=C)C | C18H16N2O2
